US04582838
A solution of tetrahydro-3,5-dioxo-1H-pyrrolo-[1,2-c]imidazole-2(3H)-acetic acid methyl ester (1.0 g, 0.004 mol) in methanol, 150 ml, is saturated with anhydrous ammonia. The mixture is allowed to stand 24 hours at room temperature. The solution is concentrated at reduced pressure to yield tetrahydro-3,5-dioxo-1H-pyrrolo[1,2-c]imidazole-2(3H)-acetic acid amide.

reactant | tetrahydro-3,5-dioxo-1H-pyrrolo-[1,2-c]imidazole-2(3H)-acetic acid methyl ester | 0.004 mol, 1.0 g | COC(CN1C(N2C(C1)CCC2=O)=O)=O | C9H12N2O4
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | tetrahydro-3,5-dioxo-1H-pyrrolo[1,2-c]imidazole-2(3H)-acetic acid amide | O=C1N(CC2N1C(CC2)=O)CC(=O)N | C8H11N3O3
